* C:\PP\Dydaktyka\MATERIALY\TC_MATERIALY\Microprocessor-systems-exampels\FT\Logic circuit\display_control_npn.asc
R_A N003 0 {Rcom}
V1 GPIO 0 PULSE(0V 3.3V 0 0 0 0.5m 1m)
V2 +5V 0 5V
D_A1 N002 N003 LED
D_B1 N002 N004 LED
D_C1 N002 N005 LED
D3 N002 N006 LED
D4 N002 N007 LED
D5 N002 N008 LED
D6 N002 N009 LED
D7 N002 N010 LED
R_B N004 0 {Rcom}
R_C N005 0 {Rcom}
R_D N006 0 {Rcom}
R_E N007 0 {Rcom}
R_F N008 0 {Rcom}
R_G N009 0 {Rcom}
R_H N010 0 {Rcom}
Q1 +5V N001 N002 0 NPN
R1 GPIO N001 1k
.model D D
.lib C:\Users\AW\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\AW\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.model LED D(Vfwd = 2V)
.param Rcom=10
.backanno
.end
