* C:\PP\Dydaktyka\MATERIALY\TC_MATERIALY\Microprocessor-systems-exampels\FT\Logic circuit\display_control_pnp.asc
Q1 N001 N003 0 0 NPN
R_A N005 0 {Rcom}
R2 N002 N001 100
R3 N003 GPIO 10k
V1 GPIO 0 PULSE(0V 3.3V 0 0 0 0.5m 1m)
V2 +5V 0 5V
D_A1 N004 N005 LED
Q2 N004 N002 +5V 0 PNP
D_B1 N004 N006 LED
D_C1 N004 N007 LED
D3 N004 N008 LED
D4 N004 N009 LED
D5 N004 N010 LED
D6 N004 N011 LED
D7 N004 N012 LED
R_B N006 0 {Rcom}
R_C N007 0 {Rcom}
R_D N008 0 {Rcom}
R_E N009 0 {Rcom}
R_F N010 0 {Rcom}
R_G N011 0 {Rcom}
R_H N012 0 {Rcom}
.model D D
.lib C:\Users\AW\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\AW\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.model LED D(Vfwd = 2V)
.param Rcom=500
.backanno
.end
